US07713994B2
7-Hydroxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid methyl ester is prepared from methyl gallate and acetone according to Percec, Virgil; Bera, Tushar K.; Tetrahedron; 58; 20; 2002; 4031-4040.

reactant | methyl gallate | C(C1=CC(O)=C(O)C(O)=C1)(=O)OC | C8H8O5
reactant | acetone | CC(=O)C | C3H6O
product | 7-Hydroxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid methyl ester | COC(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)O | C11H12O5
